US08278297B2
(S)-9-cyclopentyl-5,7,7-trimethyl-2-(1-(4-(4-methylpiperazin-1-yl)phenyl)ethylamino)-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one
(S)-2-(1-(4-Bromophenyl)ethylamino)-9-cyclopentyl-5,7,7-trimethyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one (100 mg, 0.2117 mmol), 1-methylpiperazine (84.82 mg, 93.93 μL, 0.8468 mmol), di-tert-butyl-(2-phenylphenyl)phosphane (6.317 mg, 0.02117 mmol) and K3PO4 (89.87 mg, 0.4234 mmol) were taken in up DME (2 mL) and degassed using cycles of vacuum and nitrogen. Pd2 DBA3 (19.39 mg, 0.02117 mmol) was added and the reaction mixture was further degassed and then heated at 100° C. in a sealed tube for 4 hours and then allowed to cool to the ambient temperature. The reaction mixture was then diluted with ethyl acetate (5 mL) and filtered. The filtrate was concentrated in vacuo and the residue purified by mass directed HPLC and the combined product fractions passed through a bicarbonate cartridge and lypholized to give the title compound as a white solid (9.9 mg, 10% yield).

reactant | (S)-2-(1-(4-Bromophenyl)ethylamino)-9-cyclopentyl-5,7,7-trimethyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | 0.2117 mmol, 100 mg | BrC1=CC=C(C=C1)[C@H](C)NC=1N=CC2=C(N(CC(C(N2C)=O)(C)C)C2CCCC2)N1 | C23H30BrN5O
reactant | 1-methylpiperazine | 0.8468 mmol, 93.93 μL, 84.82 mg | CN1CCNCC1 | C5H12N2
reactant | di-tert-butyl-(2-phenylphenyl)phosphane | 0.02117 mmol, 6.317 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | K3PO4 | 0.4234 mmol, 89.87 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | Pd2 DBA3 | 0.02117 mmol, 19.39 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | DME | 2 mL | COCCOC | C4H10O2
product | (S)-9-cyclopentyl-5,7,7-trimethyl-2-(1-(4-(4-methylpiperazin-1-yl)phenyl)ethylamino)-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | 9.9 mg, 10% yield | C1(CCCC1)N1C2=C(N(C(C(C1)(C)C)=O)C)C=NC(=N2)N[C@@H](C)C2=CC=C(C=C2)N2CCN(CC2)C | C28H41N7O
